US07049313B2
(b) 1-Fluoro-9H-thioxanthen-4-yl trifluoromethane sulfonate (15)
1-Fluoro-4-hydroxy-thioxanthen-9-one (1.66 g, 7.15 mmol) was dissolved in dry pyridine (35 ml) and cooled to 0° C. under a nitrogen atmosphere. Triflic anhydride (2.22 g, 7.87 mmol) was added dropwise to the stirred solution over 5 minutes. The reaction was left to react for 4 hours at room temperature and was then pour onto water (350 ml). The milky solution was extracted with DCM (3×200 ml), the organics were combined and dried over magnesium sulphate. The solvent was removed in vacuo and the solid obtained was purified through a plug of silica (ethyl acetate:hexane; 3:97) to give the title compound as a white fluffy solid (2.55 g, 98%). 1H-NMR (300 MHz, DMSO-d6): δH=3.86 (2H, s); 7.3–7.6 (6H, m)

reactant | 1-Fluoro-4-hydroxy-thioxanthen-9-one | 7.15 mmol, 1.66 g | FC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H7FO2S
reactant | Triflic anhydride | 7.87 mmol, 2.22 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 1-Fluoro-9H-thioxanthen-4-yl trifluoromethane sulfonate | FC(S(=O)(=O)OC1=CC=C(C=2CC3=CC=CC=C3SC12)F)(F)F | C14H8F4O3S2
